Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain and vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ with h/o diverticulitis and small
bowel GIST resection who presents this evening as a transfer 
from
___ for an SBO that developed over the course of the day. The
patient was in her usual state of health until this morning, 
when
she began to develop diffuse, crampy lower abdominal pain and
nausea and vomited several times. The last thing she ate was
toast for breakfast, because the nausea dulled her appetite. She
presented to the ___ in the afternoon, where an SBO was
demonstrated on CT abdomen/pelvis with a transition point at the
staple line of her previous small bowel anastomosis (from GIST
removal in ___.  An NGT was placed and she received IV 
morphine
and Zofran. She reports becoming dizzy and diaphoretic and
desaturating to the high ___ following morphine administration,
so was put on 2L O2 by NC. Reportedly weaned off O2 but
desaturated a second time after transfer to the ___ ___, so was
put back on 2L. Currently denies any fever, chills, CP or SOB;
last BM and flatus were this morning. Denies having an episode
like this before.   
 
Past Medical History:
Past Medical History:  
recurrent diverticulitis (___)
breast cancer
melanoma
hypothyroidism
GERD
rectocele 

Past Surgical History: 
laparoscopic small bowel resection to remove GIST (___)
diagnostic laparoscopy & laparoscopic exploration (___)
L bunionectomy ___
lipoma removal from L upper arm
melanoma removed from R medial thigh (___)
L lumpectomy + adjuvant radiation therapy  
 
Social History:
___
Family History:
nc
 
Physical Exam:
Physical Exam:  
 Vitals: AVSS  
 GEN: A&O, NAD.   
 HEENT: NC/AT 
 CV: RRR, No M/G/R  
 PULM: Clear to auscultation b/l, No W/R/R  
 ABD: Soft, mildly distended, mild tenderness in lower 
quadrants, no
rebound or guarding, hypoactive bowel sounds, no palpable 
masses.
 Ext: No ___ edema, ___ warm and well perfused  
 
Pertinent Results:
___ 09:17AM   GLUCOSE-102* UREA N-18 CREAT-0.7 SODIUM-141 
POTASSIUM-4.2 CHLORIDE-101 TOTAL CO2-29 ANION GAP-15
___ 09:17AM   CALCIUM-9.4 PHOSPHATE-3.9 MAGNESIUM-2.0
___ 09:17AM   WBC-9.8 RBC-4.18 HGB-13.1 HCT-40.9 MCV-98 
MCH-31.3 MCHC-32.0 RDW-13.6 RDWSD-49.1*
___ 09:17AM   PLT COUNT-250
___ 11:40PM   GLUCOSE-123* UREA N-21* CREAT-0.7 SODIUM-138 
POTASSIUM-4.1 CHLORIDE-100 TOTAL CO2-28 ANION GAP-14
___ 11:40PM   estGFR-Using this
___ 11:40PM   WBC-12.3*# RBC-4.28 HGB-13.2 HCT-41.5 MCV-97 
MCH-30.8 MCHC-31.8* RDW-13.2 RDWSD-47.1*
___ 11:40PM   NEUTS-85.1* LYMPHS-7.4* MONOS-6.3 EOS-0.3* 
BASOS-0.2 IM ___ AbsNeut-10.46* AbsLymp-0.91* AbsMono-0.78 
AbsEos-0.04 AbsBaso-0.03
___ 11:40PM   PLT COUNT-273
 
Brief Hospital Course:
The patient presented to ___ from ___ for small bowel 
obstruction. Pt was evaluated by upon arrival to ___ and treated 
conservatively.  Given findings, an NG tube was placed with 
suction and the patient was kept NPO to allow for bowel rest.  
The NG tube was then ___ and the patient was advanced to a 
clear liquid diet, which she tolerated, and was then advanced to 
a regular diet.  Once the patient was tolerated a regular diet 
she was discharged.
Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with IV 
acetaminophen
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: The patient was initially kept NPO with a 
___ tube in place for decompression.  The NGT was 
removed, therefore, the diet was advanced sequentially to a 
Regular diet, which was well tolerated. Patient's intake and 
output were closely monitored
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.
At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
lansoprazole, levothyroxine, Metamucil 
 
Discharge Medications:
1.  Simethicone 40-80 mg PO QID:PRN gas pain 
2.  lansoprazole
3.  levothyroxine
4.  Metamucil 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small bowel obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to the hospital for a small bowel obstruction. 
You were given bowel rest and intravenous fluids and a 
nasogastric tube was placed in your stomach to decompress your 
bowels. Your obstruction has subsequently resolved after 
conservative management. You have tolerated a regular diet, are 
passing gas and your pain is controlled with pain medications by 
mouth. You may return home to finish your recovery.  
 
If you have any of the following symptoms please call the office 
for advice or go to the emergency room if severe: increasing 
abdominal distension, increasing abdominal pain, nausea, 
vomiting, inability to tolerate food or liquids, prolonged loose 
stool, or extended constipation.  
 
Thank you for allowing us to participate in your care! Our hope 
is that you will have a quick return to your life and usual 
activities. 

Good luck!  

 
Followup Instructions:
___